US04519937
Preparation of 5-Acetyl-2-aminobenzophenone
2-Amino-5-(2-methyl-1,3-dioxolan-2-yl)benzophenone (1.0 g, 3.54 mmol) was dissolved in 30 ml absolute ethanol. To this was added 1M perchloric acid (14 ml). The resulting mixture was stirred at room temperature for 18 hrs. The mixture was made basic with 3N sodium hydroxide solution and then extracted with several portions of methylene chloride. The combined methylene chloride extracts were washed with water, dried with anhydrous sodium sulfate, and evaporated to yield a yellow product (0.79 g) of mp. 158°-161° C. A portion of the product was recrystallized from a mixture of methylene chloride and hexane to yield material of mp. 158°-162° C.

reactant | 2-Amino-5-(2-methyl-1,3-dioxolan-2-yl)benzophenone | 3.54 mmol, 1.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C1(OCCO1)C | C17H17NO3
reactant | perchloric acid | 1M, 14 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Acetyl-2-aminobenzophenone | 0.79 g | C(C)(=O)C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N | C15H13NO2
